US06858641B2
Methyl 4-methoxycarbonylmethyl-3-nitro-benzoate
54.3 g of methyl 3-nitro-benzoate and 29.0 g of methyl chioroacetate are dissolved in 100 ml of dimethylformamide and this solution is added dropwise at −10° C. to a solution of 78.5 g of potassium tert.butoxide in 500 ml of dimethylformamide. The mixture is stirred for another 10 minutes at ambient temperature and after this time the solution is poured onto 350 ml of concentrated hydrochloric acid in 2 l of iced water. The solution is stirred for 0.5 hours and the precipitate obtained is suction filtered and washed with water. The product is recrystallised from 150 ml of methanol and dried in vacuo at 40° C. Yield: 48.3 g (51% of theoretical), contains about 20% of methyl 6-methoxycarbonylmethyl-3-nitro-benzoate

reactant | methyl 3-nitro-benzoate | 54.3 g | [N+](=O)([O-])C=1C=C(C(=O)OC)C=CC1 | C8H7NO4
reactant | methyl chioroacetate | 29.0 g | ClCC(=O)OC | C3H5ClO2
reactant | potassium tert.butoxide | 78.5 g | CC(C)([O-])C.[K+]
reactant | hydrochloric acid | 350 ml | Cl | ClH
solvent | dimethylformamide | 100 ml | CN(C=O)C | C3H7NO
solvent | dimethylformamide | 500 ml | CN(C=O)C | C3H7NO
solvent | water | 2 l | O | H2O
product | Methyl 4-methoxycarbonylmethyl-3-nitro-benzoate | COC(=O)CC1=C(C=C(C(=O)OC)C=C1)[N+](=O)[O-] | C11H11NO6
